US04647565
To a stirred solution of 2-(3-fluorophenyl)-4,4-dimethyloxazoline (36.7 g) in dry tetrahydrofuran (500 ml.) at -65° C. was added dropwise n-butyl-lithium (119 ml. of 1.6M solution in hexane). The solution was stirred at the same temperature for 1 hour and then a solution of 4-toluenesulphonic chloride (36.2 g.) in dry tetrahydrofuran (250 ml.) was added over 45 minutes, maintaining the temperature below -50° C. The mixture was stirred at -50° C. for 1 hour and then allowed to warm up to room temperature and stirred for a further 2 hours. An excess of water was added and the mixture was evaporated to a low volume and extracted several times with diethyl ether. The combined extracts were washed with diluted sodium hydroxide solution, water and then dried over sodium sulphate. Evaporation of the solvent gave an oil which was distilled to give 2-(2-chloro-3-fluorophenyl)-4,4-dimethyloxazoline (29.0 g.), b.p. 138°-140° C. at 15 m.m. Found: C, 57.93; H, 4.77; N, 6.20. C11H11ClFNO requires: C, 58.03; H, 4.87; N, 6.15%.

reactant | 2-(3-fluorophenyl)-4,4-dimethyloxazoline | 36.7 g | FC=1C=C(C=CC1)C=1OCC(N1)(C)C | C11H12FNO
reactant | n-butyl-lithium | 1.6M, 119 ml | C(CCC)[Li]
reactant | 4-toluenesulphonic chloride | 36.2 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | water | O | H2O
solvent | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 250 ml | O1CCCC1 | C4H8O
product | 2-(2-chloro-3-fluorophenyl)-4,4-dimethyloxazoline | 29.0 g | ClC1=C(C=CC=C1F)C=1OCC(N1)(C)C | C11H11ClFNO
